US07777047B2
N-(2-hydroxyethyl)-N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide
To a solution of N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-thienylsulfonyl)glycine ethyl ester (100 mg) in tetrahydrofuran (10 mL) and methanol (2 mL) was added lithium borohydride (18.0 mg), and the mixture was stirred at room temperature for 4 hr. 1M Hydrochloric acid was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4), and concentrated. The residue was recrystallized from a mixed solvent of ethyl acetate-hexane to give the title compound (70 mg, yield 76%) as white crystals.

reactant | N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}-N-(2-thienylsulfonyl)glycine ethyl ester | 100 mg | C(C)OC(CN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CN1CCOCC1)=O | C24H28N4O5S3
reactant | lithium borohydride | 18.0 mg | [BH4-].[Li+]
reactant | Hydrochloric acid | 1M | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | methanol | 2 mL | CO | CH4O
product | N-(2-hydroxyethyl)-N-{2-[5-(morpholinomethyl)-4,5-dihydro-1,3-thiazol-2-yl]-1H-indol-7-yl}thiophene-2-sulfonamide | 70 mg, yield 76% | OCCN(S(=O)(=O)C=1SC=CC1)C=1C=CC=C2C=C(NC12)C=1SC(CN1)CN1CCOCC1 | C22H26N4O4S3
